US04853392
4-(2-Chlorophenyl)-3-ethoxycarbonyl-2-[2-(2-n-propylimidazol-1-yl)propoxymethyl]-1,4,5,6,7,8-hexahydro-5-oxoquinoline
Ethyl 4-[2-(2-n-propylimidazol-1-yl)propoxy]-3-ketobutanoate (590 mg), 3-aminocyclohex-2-enone (220 mg) and 2-chlorobenzaldehyde (281 mg) were stirred in refluxing ethanol (8 ml) for 8 hours. The solvent was removed under reduced pressure. The crude product was chromatographed over silica eluting with a mixture of diethylamine and ethyl acetate (1:49). The solvents were removed in vacuo and the residue rechromatographed over silica eluting with a mixture of methanol and ethyl acetate [1:9]. The solvents were removed in vacuo. The resulting foam was stirred in ether overnight, the solid filtered and dried in vacuo yielding the title compound as a white solid 220 mg (22%). M.p. 127°-131° C.

reactant | Ethyl 4-[2-(2-n-propylimidazol-1-yl)propoxy]-3-ketobutanoate | 590 mg | C(CC)C=1N(C=CN1)C(COCC(CC(=O)OCC)=O)C | C15H24N2O4
reactant | 3-aminocyclohex-2-enone | 220 mg | NC1=CC(CCC1)=O | C6H9NO
reactant | 2-chlorobenzaldehyde | 281 mg | ClC1=C(C=O)C=CC=C1 | C7H5ClO
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 4-(2-Chlorophenyl)-3-ethoxycarbonyl-2-[2-(2-n-propylimidazol-1-yl)propoxymethyl]-1,4,5,6,7,8-hexahydro-5-oxoquinoline | 220 mg, 22% | ClC1=C(C=CC=C1)C1C(=C(NC=2CCCC(C12)=O)COCC(C)N1C(=NC=C1)CCC)C(=O)OCC | C28H34ClN3O4
